US03984430
5-(3-Acetamidopropyl)-3-methyl-2-thiohydantoin
Using an analogous procedure to Example 1 Nδ-acetyl-L-ornithine methyl ester may be reacted with methyl isothiocyanate to give the title compound.

reactant | Nδ-acetyl-L-ornithine methyl ester | COC([C@@H](N)CCCNC(C)=O)=O | C8H16N2O3
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 5-(3-Acetamidopropyl)-3-methyl-2-thiohydantoin | C(C)(=O)NCCCC1C(N(C(N1)=S)C)=O | C9H15N3O2S
